US06436980B1
(C) N,N′-Bis-Boc-(2R)-2,5-Diamino-N-[(1R)-1-[(RS)-(5-chloro-2-benzoxazolyl)hydroxymethyl]-3-phenylpropyl]valeramide
(1R)-1-[(RS)-(5-Chloro-2-benzoxazolyl)hydroxymethyl]-3-phenylpropylamine (136 mg) was coupled with N,N′-bis-Boc-D-ornithine to afford the title compound (150 mg) as a glassy solid: mass spectrum (ES+) m/e 35Cl 653.4, 37Cl 655.4 (M+23 (Na)); 1H NMR (400 MHz, CDCl3, 7:3 mixture of diastereomers) δ 1.40 (m, 18H), 1.62 (m, 4H), 1.90 (m, 2H), 2.74 (m, 2H), 3.03-3.23 (m, 2H), 4.09 (m, 0.3H), 4.19 (m, 0.7H), 4.58 (m, 0.7H), 4.69 (m, 0,3H), 5.03 (m, 0.7H), 5.20 (m, 0.3H), 7.11-7.23 (m, 6H), 7.37 (m, 2H), 7.53 (m, 1H), 7.68 (m, 0.3H), and 7.76 (m, 0.7H).

reactant | (1R)-1-[(RS)-(5-Chloro-2-benzoxazolyl)hydroxymethyl]-3-phenylpropylamine | 136 mg | ClC=1C=CC2=C(N=C(O2)C([C@@H](CCC2=CC=CC=C2)N)O)C1 | C17H17ClN2O2
reactant | N,N′-bis-Boc-D-ornithine | C(=O)(OC(C)(C)C)N[C@H](CCCNC(=O)OC(C)(C)C)C(=O)O | C15H28N2O6
product | N,N′-Bis-Boc-(2R)-2,5-Diamino-N-[(1R)-1-[(RS)-(5-chloro-2-benzoxazolyl)hydroxymethyl]-3-phenylpropyl]valeramide | 150 mg | C(=O)(OC(C)(C)C)N(C([C@@H](CCCNC(=O)OC(C)(C)C)N)=O)[C@H](CCC1=CC=CC=C1)C(O)C=1OC2=C(N1)C=C(C=C2)Cl | C32H43ClN4O7
